US07977344B2
6-Amino-2-butylamino-9-[2-(tetrahydrofuran-2-yl)ethyl]-7,9-dihydro-8H-purin-8-one
N2-Butyl-8-methoxy-9-[2-(tetrahydrofuran-2-yl)ethyl]-9H-purine-2,6-diamine (107 mg) was dissolved in methanol (2 ml) and 4N hydrogen chloride in dioxan (1 ml) added. After 4 h the solvents were stripped and the residue taken up in water and basified with 2N sodium hydroxide. A few drops of 2N hydrochloric acid were added and the pH adjusted to 7-8 by addition of saturated sodium hydrogen carbonate. The resulting solid was filtered, washed and dried to give the title compound as a solid, yield 101 mg.

reactant | N2-Butyl-8-methoxy-9-[2-(tetrahydrofuran-2-yl)ethyl]-9H-purine-2,6-diamine | 107 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCC1OCCC1)OC)N | C16H26N6O2
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | dioxan | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | hydrochloric acid | 2N, A few drops | Cl | ClH
product | 6-Amino-2-butylamino-9-[2-(tetrahydrofuran-2-yl)ethyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)NCCCC)CCC1OCCC1)=O | C15H24N6O2
